US07807709B2
b. 4-Bromo-1-methoxy-2-(2-methoxy-ethoxymethyl)-benzene
To a solution of (5-bromo-2-methoxy-phenyl)-methanol (3.38 g, 14.8 mmol) and 2-bromoethyl methyl ether (2.06 g, 14.8 mmol) in DMF (30 mL) is added NaH (55% dispersion in oil; 1.36 g, 31.1 mmol) in three portions at room temperature, followed by stirring overnight. The mixture is poured into ice-cooled aqueous 2N HCl, the water phase is extracted with diethyl ether, the combined organic phase is washed with brine, dried (Na2SO4) and concentrated. Purification by flash chromatography (hexane/AcOEt 3:1) gives the title compound as liquid. TLC, Rf (hexane/AcOEt 1:1)=0.44. 1H-NMR (CDCl3): δ 3.45 (s, 3H), 3.64 (m, 2H), 3.71 (m, 2H), 3.83 (s, 3H), 4.60 (s, 2H), 6.76 (d, 1H), 7.37 (dd, 1H), 7.56 (d, 1H) ppm.

reactant | (5-bromo-2-methoxy-phenyl)-methanol | 14.8 mmol, 3.38 g | BrC=1C=CC(=C(C1)CO)OC | C8H9BrO2
reactant | 2-bromoethyl methyl ether | 14.8 mmol, 2.06 g | COCCBr | C3H7BrO
reactant | NaH | 31.1 mmol, 1.36 g | [H-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-1-methoxy-2-(2-methoxy-ethoxymethyl)-benzene | BrC1=CC(=C(C=C1)OC)COCCOC | C11H15BrO3
